.title KiCad schematic
V4 /adder-4/Vcc 0 dc 5
V1 /A1in 0 dc 0
V2 /A2in 0 dc 5
V3 /A3in 0 dc 0
V5 /A4in 0 dc 0
V6 /B1in 0 dc 5
V7 /B2in 0 dc 0
V8 /B3in 0 dc 0
V9 /B4in 0 dc 0
V10 /Cinin 0 dc 0
R3 /adder-4/Vcc /adder-4/adder-4-1/sheet5C34B00D/A 1K
R1 /A1in /adder-4/adder-4-1/sheet5C34AF27/AorB 10K
R2 /B1in /adder-4/adder-4-1/sheet5C34AF27/AorB 10K
Q1 /adder-4/adder-4-1/sheet5C34B00D/A /adder-4/adder-4-1/sheet5C34AF27/AorB 0 NPN
R6 /adder-4/Vcc /adder-4/adder-4-1/sheet5C34B027/A 1K
R4 /A1in /adder-4/adder-4-1/sheet5C34AFF9/AorB 10K
R5 /adder-4/adder-4-1/sheet5C34B00D/A /adder-4/adder-4-1/sheet5C34AFF9/AorB 10K
Q2 /adder-4/adder-4-1/sheet5C34B027/A /adder-4/adder-4-1/sheet5C34AFF9/AorB 0 NPN
R9 /adder-4/Vcc /adder-4/adder-4-1/sheet5C34B027/B 1K
R7 /adder-4/adder-4-1/sheet5C34B00D/A /adder-4/adder-4-1/sheet5C34B00D/AorB 10K
R8 /B1in /adder-4/adder-4-1/sheet5C34B00D/AorB 10K
Q3 /adder-4/adder-4-1/sheet5C34B027/B /adder-4/adder-4-1/sheet5C34B00D/AorB 0 NPN
R12 /adder-4/Vcc /adder-4/adder-4-1/sheet5C34B047/A 1K
R10 /adder-4/adder-4-1/sheet5C34B027/A /adder-4/adder-4-1/sheet5C34B027/AorB 10K
R11 /adder-4/adder-4-1/sheet5C34B027/B /adder-4/adder-4-1/sheet5C34B027/AorB 10K
Q4 /adder-4/adder-4-1/sheet5C34B047/A /adder-4/adder-4-1/sheet5C34B027/AorB 0 NPN
R15 /adder-4/Vcc /adder-4/adder-4-1/sheet5C34B049/A 1K
R13 /adder-4/adder-4-1/sheet5C34B047/A /adder-4/adder-4-1/sheet5C34B047/AorB 10K
R14 /Cinin /adder-4/adder-4-1/sheet5C34B047/AorB 10K
Q5 /adder-4/adder-4-1/sheet5C34B049/A /adder-4/adder-4-1/sheet5C34B047/AorB 0 NPN
R18 /adder-4/Vcc /adder-4/adder-4-1/sheet5C34B04A/A 1K
R16 /adder-4/adder-4-1/sheet5C34B047/A /adder-4/adder-4-1/sheet5C34B048/AorB 10K
R17 /adder-4/adder-4-1/sheet5C34B049/A /adder-4/adder-4-1/sheet5C34B048/AorB 10K
Q6 /adder-4/adder-4-1/sheet5C34B04A/A /adder-4/adder-4-1/sheet5C34B048/AorB 0 NPN
R21 /adder-4/Vcc /adder-4/adder-4-1/sheet5C34B04A/B 1K
R19 /adder-4/adder-4-1/sheet5C34B049/A /adder-4/adder-4-1/sheet5C34B049/AorB 10K
R20 /Cinin /adder-4/adder-4-1/sheet5C34B049/AorB 10K
Q7 /adder-4/adder-4-1/sheet5C34B04A/B /adder-4/adder-4-1/sheet5C34B049/AorB 0 NPN
R24 /adder-4/Vcc /adder-4/S1 1K
R22 /adder-4/adder-4-1/sheet5C34B04A/A /adder-4/adder-4-1/sheet5C34B04A/AorB 10K
R23 /adder-4/adder-4-1/sheet5C34B04A/B /adder-4/adder-4-1/sheet5C34B04A/AorB 10K
Q8 /adder-4/S1 /adder-4/adder-4-1/sheet5C34B04A/AorB 0 NPN
R27 /adder-4/Vcc /adder-4/adder-4-2/Cin 1K
R25 /adder-4/adder-4-1/sheet5C34B049/A /adder-4/adder-4-1/sheet5C34B0CD/AorB 10K
R26 /adder-4/adder-4-1/sheet5C34B00D/A /adder-4/adder-4-1/sheet5C34B0CD/AorB 10K
Q9 /adder-4/adder-4-2/Cin /adder-4/adder-4-1/sheet5C34B0CD/AorB 0 NPN
R30 /adder-4/Vcc /adder-4/adder-4-2/sheet5C34B00D/A 1K
R28 /A2in /adder-4/adder-4-2/sheet5C34AF27/AorB 10K
R29 /B2in /adder-4/adder-4-2/sheet5C34AF27/AorB 10K
Q10 /adder-4/adder-4-2/sheet5C34B00D/A /adder-4/adder-4-2/sheet5C34AF27/AorB 0 NPN
R33 /adder-4/Vcc /adder-4/adder-4-2/sheet5C34B027/A 1K
R31 /A2in /adder-4/adder-4-2/sheet5C34AFF9/AorB 10K
R32 /adder-4/adder-4-2/sheet5C34B00D/A /adder-4/adder-4-2/sheet5C34AFF9/AorB 10K
Q11 /adder-4/adder-4-2/sheet5C34B027/A /adder-4/adder-4-2/sheet5C34AFF9/AorB 0 NPN
R36 /adder-4/Vcc /adder-4/adder-4-2/sheet5C34B027/B 1K
R34 /adder-4/adder-4-2/sheet5C34B00D/A /adder-4/adder-4-2/sheet5C34B00D/AorB 10K
R35 /B2in /adder-4/adder-4-2/sheet5C34B00D/AorB 10K
Q12 /adder-4/adder-4-2/sheet5C34B027/B /adder-4/adder-4-2/sheet5C34B00D/AorB 0 NPN
R39 /adder-4/Vcc /adder-4/adder-4-2/sheet5C34B047/A 1K
R37 /adder-4/adder-4-2/sheet5C34B027/A /adder-4/adder-4-2/sheet5C34B027/AorB 10K
R38 /adder-4/adder-4-2/sheet5C34B027/B /adder-4/adder-4-2/sheet5C34B027/AorB 10K
Q13 /adder-4/adder-4-2/sheet5C34B047/A /adder-4/adder-4-2/sheet5C34B027/AorB 0 NPN
R42 /adder-4/Vcc /adder-4/adder-4-2/sheet5C34B049/A 1K
R40 /adder-4/adder-4-2/sheet5C34B047/A /adder-4/adder-4-2/sheet5C34B047/AorB 10K
R41 /adder-4/adder-4-2/Cin /adder-4/adder-4-2/sheet5C34B047/AorB 10K
Q14 /adder-4/adder-4-2/sheet5C34B049/A /adder-4/adder-4-2/sheet5C34B047/AorB 0 NPN
R45 /adder-4/Vcc /adder-4/adder-4-2/sheet5C34B04A/A 1K
R43 /adder-4/adder-4-2/sheet5C34B047/A /adder-4/adder-4-2/sheet5C34B048/AorB 10K
R44 /adder-4/adder-4-2/sheet5C34B049/A /adder-4/adder-4-2/sheet5C34B048/AorB 10K
Q15 /adder-4/adder-4-2/sheet5C34B04A/A /adder-4/adder-4-2/sheet5C34B048/AorB 0 NPN
R48 /adder-4/Vcc /adder-4/adder-4-2/sheet5C34B04A/B 1K
R46 /adder-4/adder-4-2/sheet5C34B049/A /adder-4/adder-4-2/sheet5C34B049/AorB 10K
R47 /adder-4/adder-4-2/Cin /adder-4/adder-4-2/sheet5C34B049/AorB 10K
Q16 /adder-4/adder-4-2/sheet5C34B04A/B /adder-4/adder-4-2/sheet5C34B049/AorB 0 NPN
R51 /adder-4/Vcc /adder-4/S2 1K
R49 /adder-4/adder-4-2/sheet5C34B04A/A /adder-4/adder-4-2/sheet5C34B04A/AorB 10K
R50 /adder-4/adder-4-2/sheet5C34B04A/B /adder-4/adder-4-2/sheet5C34B04A/AorB 10K
Q17 /adder-4/S2 /adder-4/adder-4-2/sheet5C34B04A/AorB 0 NPN
R54 /adder-4/Vcc /adder-4/adder-4-3/Cin 1K
R52 /adder-4/adder-4-2/sheet5C34B049/A /adder-4/adder-4-2/sheet5C34B0CD/AorB 10K
R53 /adder-4/adder-4-2/sheet5C34B00D/A /adder-4/adder-4-2/sheet5C34B0CD/AorB 10K
Q18 /adder-4/adder-4-3/Cin /adder-4/adder-4-2/sheet5C34B0CD/AorB 0 NPN
R57 /adder-4/Vcc /adder-4/adder-4-3/sheet5C34B00D/A 1K
R55 /A3in /adder-4/adder-4-3/sheet5C34AF27/AorB 10K
R56 /B3in /adder-4/adder-4-3/sheet5C34AF27/AorB 10K
Q19 /adder-4/adder-4-3/sheet5C34B00D/A /adder-4/adder-4-3/sheet5C34AF27/AorB 0 NPN
R60 /adder-4/Vcc /adder-4/adder-4-3/sheet5C34B027/A 1K
R58 /A3in /adder-4/adder-4-3/sheet5C34AFF9/AorB 10K
R59 /adder-4/adder-4-3/sheet5C34B00D/A /adder-4/adder-4-3/sheet5C34AFF9/AorB 10K
Q20 /adder-4/adder-4-3/sheet5C34B027/A /adder-4/adder-4-3/sheet5C34AFF9/AorB 0 NPN
R63 /adder-4/Vcc /adder-4/adder-4-3/sheet5C34B027/B 1K
R61 /adder-4/adder-4-3/sheet5C34B00D/A /adder-4/adder-4-3/sheet5C34B00D/AorB 10K
R62 /B3in /adder-4/adder-4-3/sheet5C34B00D/AorB 10K
Q21 /adder-4/adder-4-3/sheet5C34B027/B /adder-4/adder-4-3/sheet5C34B00D/AorB 0 NPN
R66 /adder-4/Vcc /adder-4/adder-4-3/sheet5C34B047/A 1K
R64 /adder-4/adder-4-3/sheet5C34B027/A /adder-4/adder-4-3/sheet5C34B027/AorB 10K
R65 /adder-4/adder-4-3/sheet5C34B027/B /adder-4/adder-4-3/sheet5C34B027/AorB 10K
Q22 /adder-4/adder-4-3/sheet5C34B047/A /adder-4/adder-4-3/sheet5C34B027/AorB 0 NPN
R69 /adder-4/Vcc /adder-4/adder-4-3/sheet5C34B049/A 1K
R67 /adder-4/adder-4-3/sheet5C34B047/A /adder-4/adder-4-3/sheet5C34B047/AorB 10K
R68 /adder-4/adder-4-3/Cin /adder-4/adder-4-3/sheet5C34B047/AorB 10K
Q23 /adder-4/adder-4-3/sheet5C34B049/A /adder-4/adder-4-3/sheet5C34B047/AorB 0 NPN
R72 /adder-4/Vcc /adder-4/adder-4-3/sheet5C34B04A/A 1K
R70 /adder-4/adder-4-3/sheet5C34B047/A /adder-4/adder-4-3/sheet5C34B048/AorB 10K
R71 /adder-4/adder-4-3/sheet5C34B049/A /adder-4/adder-4-3/sheet5C34B048/AorB 10K
Q24 /adder-4/adder-4-3/sheet5C34B04A/A /adder-4/adder-4-3/sheet5C34B048/AorB 0 NPN
R75 /adder-4/Vcc /adder-4/adder-4-3/sheet5C34B04A/B 1K
R73 /adder-4/adder-4-3/sheet5C34B049/A /adder-4/adder-4-3/sheet5C34B049/AorB 10K
R74 /adder-4/adder-4-3/Cin /adder-4/adder-4-3/sheet5C34B049/AorB 10K
Q25 /adder-4/adder-4-3/sheet5C34B04A/B /adder-4/adder-4-3/sheet5C34B049/AorB 0 NPN
R78 /adder-4/Vcc /adder-4/S3 1K
R76 /adder-4/adder-4-3/sheet5C34B04A/A /adder-4/adder-4-3/sheet5C34B04A/AorB 10K
R77 /adder-4/adder-4-3/sheet5C34B04A/B /adder-4/adder-4-3/sheet5C34B04A/AorB 10K
Q26 /adder-4/S3 /adder-4/adder-4-3/sheet5C34B04A/AorB 0 NPN
R81 /adder-4/Vcc /adder-4/adder-4-4/Cin 1K
R79 /adder-4/adder-4-3/sheet5C34B049/A /adder-4/adder-4-3/sheet5C34B0CD/AorB 10K
R80 /adder-4/adder-4-3/sheet5C34B00D/A /adder-4/adder-4-3/sheet5C34B0CD/AorB 10K
Q27 /adder-4/adder-4-4/Cin /adder-4/adder-4-3/sheet5C34B0CD/AorB 0 NPN
R84 /adder-4/Vcc /adder-4/adder-4-4/sheet5C34B00D/A 1K
R82 /A4in /adder-4/adder-4-4/sheet5C34AF27/AorB 10K
R83 /B4in /adder-4/adder-4-4/sheet5C34AF27/AorB 10K
Q28 /adder-4/adder-4-4/sheet5C34B00D/A /adder-4/adder-4-4/sheet5C34AF27/AorB 0 NPN
R87 /adder-4/Vcc /adder-4/adder-4-4/sheet5C34B027/A 1K
R85 /A4in /adder-4/adder-4-4/sheet5C34AFF9/AorB 10K
R86 /adder-4/adder-4-4/sheet5C34B00D/A /adder-4/adder-4-4/sheet5C34AFF9/AorB 10K
Q29 /adder-4/adder-4-4/sheet5C34B027/A /adder-4/adder-4-4/sheet5C34AFF9/AorB 0 NPN
R90 /adder-4/Vcc /adder-4/adder-4-4/sheet5C34B027/B 1K
R88 /adder-4/adder-4-4/sheet5C34B00D/A /adder-4/adder-4-4/sheet5C34B00D/AorB 10K
R89 /B4in /adder-4/adder-4-4/sheet5C34B00D/AorB 10K
Q30 /adder-4/adder-4-4/sheet5C34B027/B /adder-4/adder-4-4/sheet5C34B00D/AorB 0 NPN
R93 /adder-4/Vcc /adder-4/adder-4-4/sheet5C34B047/A 1K
R91 /adder-4/adder-4-4/sheet5C34B027/A /adder-4/adder-4-4/sheet5C34B027/AorB 10K
R92 /adder-4/adder-4-4/sheet5C34B027/B /adder-4/adder-4-4/sheet5C34B027/AorB 10K
Q31 /adder-4/adder-4-4/sheet5C34B047/A /adder-4/adder-4-4/sheet5C34B027/AorB 0 NPN
R96 /adder-4/Vcc /adder-4/adder-4-4/sheet5C34B049/A 1K
R94 /adder-4/adder-4-4/sheet5C34B047/A /adder-4/adder-4-4/sheet5C34B047/AorB 10K
R95 /adder-4/adder-4-4/Cin /adder-4/adder-4-4/sheet5C34B047/AorB 10K
Q32 /adder-4/adder-4-4/sheet5C34B049/A /adder-4/adder-4-4/sheet5C34B047/AorB 0 NPN
R99 /adder-4/Vcc /adder-4/adder-4-4/sheet5C34B04A/A 1K
R97 /adder-4/adder-4-4/sheet5C34B047/A /adder-4/adder-4-4/sheet5C34B048/AorB 10K
R98 /adder-4/adder-4-4/sheet5C34B049/A /adder-4/adder-4-4/sheet5C34B048/AorB 10K
Q33 /adder-4/adder-4-4/sheet5C34B04A/A /adder-4/adder-4-4/sheet5C34B048/AorB 0 NPN
R102 /adder-4/Vcc /adder-4/adder-4-4/sheet5C34B04A/B 1K
R100 /adder-4/adder-4-4/sheet5C34B049/A /adder-4/adder-4-4/sheet5C34B049/AorB 10K
R101 /adder-4/adder-4-4/Cin /adder-4/adder-4-4/sheet5C34B049/AorB 10K
Q34 /adder-4/adder-4-4/sheet5C34B04A/B /adder-4/adder-4-4/sheet5C34B049/AorB 0 NPN
R105 /adder-4/Vcc /adder-4/S4 1K
R103 /adder-4/adder-4-4/sheet5C34B04A/A /adder-4/adder-4-4/sheet5C34B04A/AorB 10K
R104 /adder-4/adder-4-4/sheet5C34B04A/B /adder-4/adder-4-4/sheet5C34B04A/AorB 10K
Q35 /adder-4/S4 /adder-4/adder-4-4/sheet5C34B04A/AorB 0 NPN
R108 /adder-4/Vcc /adder-4/Cout 1K
R106 /adder-4/adder-4-4/sheet5C34B049/A /adder-4/adder-4-4/sheet5C34B0CD/AorB 10K
R107 /adder-4/adder-4-4/sheet5C34B00D/A /adder-4/adder-4-4/sheet5C34B0CD/AorB 10K
Q36 /adder-4/Cout /adder-4/adder-4-4/sheet5C34B0CD/AorB 0 NPN
.end
